US06306887B1
C. 3-(2-Pyrrolidin-2-yl-thiazol-5-yl)-propionic acid methyl ester
A solution of 2-[5-(2-Methoxycarbonyl-ethyl)-thiazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.37 g, 1.09 mmol) in a solution of hydrochloric acid in dioxane (4N, 10 mL) was stirred at room temperature for 1 h. The solvent was removed in vacuo and the residue dissolved in methylene chloride. The methylene chloride was removed in vacuo and the residue dissolved again in methylene chloride. The solvent was removed in vacuo and the residue used without purification. MS: Calc'd for C11H16N2O2S: 240.09. Found (M+1): 241.2.

reactant | 2-[5-(2-Methoxycarbonyl-ethyl)-thiazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.09 mmol, 0.37 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1SC(=CN1)CCC(=O)OC | C16H24N2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 4N, 10 mL | O1CCOCC1 | C4H8O2
product | 3-(2-Pyrrolidin-2-yl-thiazol-5-yl)-propionic acid methyl ester | COC(CCC1=CN=C(S1)C1NCCC1)=O | C11H16N2O2S
